US08258130B2
A suspension of NaH (2.7 g, 68 mmol, 60% in mineral oil) in DMF (20 mL) at 0° C. is treated with 3-ethyl-5-fluoro-1H-pyrrolo[2,3-b]pyridine (745 mg, 4.5 mmol) and stirred at 0° C. for 1 h. The mixture is treated with HOSA (2.5 g, 22.5 mmol) portion wise and warmed to rt over 2 h. The mixture is then poured over ice, filtered through a pad of Celite, and extracted with EtOAc (3×50 mL). The combined organic layer is dried (Na2SO4), filtered and concentrated in vacuo. The residue is purified by silica gel chromatography eluting with 30% -50% EtOAc in heptane to afford 3-ethyl-5-fluoropyrrolo[2,3-b]pyridin-1-ylamine (685 mg, 84%). MS: 180 (M+H); 1H NMR (300 MHz, CDCl3): δ 8.16 (s, 1H), 7.56 (m, 1H), 7.14 (s, 1H), 4.93 (s, NH2, 2H), 2.697 (q, 2H), 1.28 (t, 3H).

reactant | NaH | 68 mmol, 2.7 g | [H-].[Na+]
reactant | 3-ethyl-5-fluoro-1H-pyrrolo[2,3-b]pyridine | 4.5 mmol, 745 mg | C(C)C1=CNC2=NC=C(C=C21)F | C9H9FN2
reactant | DMF | 20 mL | CN(C)C=O | C3H7NO
product | 3-ethyl-5-fluoropyrrolo[2,3-b]pyridin-1-ylamine | 685 mg, 84% | C(C)C1=CN(C2=NC=C(C=C21)F)N | C9H10FN3
